Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ampicillin / azithromycin / erythromycin base / ibuprofen / 
morphine / naproxen
 
Attending: ___.
 
Chief Complaint:
Transfer for respiratory ___
 
Major Surgical or Invasive Procedure:
Re-intubation ___
Paralysis ___ AM Cis x1
Central Venous Line Placement ___ 
EGD ___ 
Bedside Bronchoscopy ___ 
 
History of Present Illness:
___ is a ___ year-old female with a history of HTN, 
HFpEF, A-fib (on apixaban), COPD (not on home O2) who presents 
as a transfer from ___ for initiation of ___.

She initially presented from ___ to the ___ on ___ with dyspnea. She had been started on levofloxacin 
and prednisone 5 days prior to presentation for presumed 
pneumonia. She was noted to be hypothermic. A CXR showed 
bilateral lower lobe consolidation and opacities. Her EKG was 
without ischemia. She was given IVF and started on vancomycin 
and meropenem. She appeared lethargic in the ED and was found to 
be hypercarbic; she was trialed on BiPAP, but subsequently 
required intubation for acute respiratory failure and was 
admitted to the ICU. 

Her course was subsequently complicated by acute renal failure; 
she became progressively anuric and remained so despite 
administration of a furosemide drip at 20mg/h. Per ___ 
notes, "Per the family they have had the discussion in the past 
and know that their mother would want to get HD should she be 
"able to live". ... the possibility of ___ was mentioned to 
them and they would prefer for their mother to get ___ over HD 
if at all possible, thus a transfer to ___ will be 
requested."

Of note, prior to ___, she was fully functioning at home, 
not on supplemental oxygen. The patient then developed influenza 
in ___ c/b superimposed pneumonia and respiratory failure 
for which she had a prolonged hospitalization at ___ 
___ form where she was discharged to ___ Rehab to be 
closer to her daughter. 

Upon arrival to ___, the patient was noted to be intubated. She 
was able to nod/shake her head in response to questions, and 
endorsed pain. Unable to localize.
 

 
Past Medical History:
- Hypertension.
- Atrial fibrillation, diagnosed in ___ during her acute 
illness.
- Congestive heart failure, no known echo results.
- COPD.
- Post influenza Pneumonia , Respiratory failure ___
- Diverticulitis.
- Degenerative joint disease.
- Chronic pleural effusions

 
Social History:
___
Family History:
One brother died at ___ of complications due to pneumonia.  Her 
mother died in her ___ of tuberculosis.  The patient was ___ at 
the time.  Her father divorced from her mother and had a history 
of alcohol abuse.  She has 5 children, one of her daughters has 
a history of DJD, diverticulitis.  One daughter and brother have 
history of hypertension.  No history of coronary artery disease. 
 No history of COPD
 
Physical Exam:
VITALS:  T 36.7 HR 109 BP 163/64 MAP 92 RR 22 SpO2 97% 
GENERAL: Alert, responsive, intubated 
HEENT: Sclera anicteric, PERRL, ETT and OGT in OP.
NECK: R IJ CVL
LUNGS: Anteriorly, ronchorous on expiration
CV: Tachycardic, irregular, normal S1 S2
ABD: soft, non-tender, distended, minimal bowel sounds present, 
no rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses. 3+ edema bilaterally.
GU: Foley with 15cc dark amber urine
SKIN: Ecchymoses in BUE, large ecchymosis in R antecubital 
fossa. No rash.
NEURO: Alert, responsive, answers questions by nodding or 
closing eyes, moving all four extremities.
ACCESS: arterial line, R IJ CVL

DISCHARGE PHYSICAL EXAM: Deceased

 
Pertinent Results:
ADMISSION

___ 07:00AM BLOOD WBC-13.1* RBC-2.43* Hgb-7.3* Hct-22.9* 
MCV-94 MCH-30.0 MCHC-31.9* RDW-18.7* RDWSD-63.5* Plt ___
___ 07:00AM BLOOD ___ PTT-23.6* ___
___ 05:52AM BLOOD ___
___ 07:00AM BLOOD Glucose-149* UreaN-51* Creat-3.5* Na-131* 
K-5.0 Cl-95* HCO3-22 AnGap-14
___ 07:00AM BLOOD ALT-10 AST-11 LD(LDH)-194 AlkPhos-28* 
TotBili-0.3
___ 07:00AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.6 Mg-2.5
___ 12:33PM BLOOD calTIBC-151* Hapto-205* Ferritn-378* 
TRF-116*
___ 07:10AM BLOOD Type-ART Temp-36.7 pO2-118* pCO2-51* 
pH-7.28* calTCO2-25 Base XS--2

DISCHARGE

___ 06:05AM BLOOD WBC-18.1* RBC-2.48* Hgb-7.3* Hct-22.7* 
MCV-92 MCH-29.4 MCHC-32.2 RDW-19.6* RDWSD-61.0* Plt ___
___ 06:05AM BLOOD ___ PTT-62.1* ___
___ 12:08PM BLOOD Glucose-95 UreaN-10 Creat-0.6 Na-137 
K-3.5 Cl-96 HCO3-24 AnGap-17
___ 12:08PM BLOOD Calcium-11.4* Phos-1.7* Mg-1.9
___ 12:27PM BLOOD Type-ART Temp-37.0 Rates-22/ Tidal V-250 
PEEP-5 FiO2-40 pO2-106* pCO2-46* pH-7.39 calTCO2-29 Base XS-1 
Intubat-INTUBATED
 
Brief Hospital Course:
___ is a ___ with a h/o HTN, HFpEF, A-fib, COPD who 
presented initially from rehab with recurrent pneumonia and 
respiratory failure, now presenting as a transfer from ___ 
___ for acute anuric renal failure s/p initiation of ___ 
who eventually had recurrent respiratory failure requiring 
re-intubation after extubation from worsening MDRO pseudomonas 
pneumonia and was ultimately made CMO by family and died in the 
ICU after extubation. 

GOC: ultimately after her prolonged ICU course with worsening 
hypoxia the a family discussion was held and Ms. ___ was made 
CMO and passed away on ___ 

# Hypoxemic Respiratory Failure 
# Mixed obstructive and restrictive lung disease
# Pneumonia, VAP

Pt admitted for worsening hypoxia in the setting of prior 
history of COPD and now suspected acute pneumonia with sputum 
cultures that grew out multidrug reistant pseudomonas. Her 
course was complicated by worsening hypoxia following extubation 
which required re-intubation after failure on non-invasive 
ventilation. She then worsened on the vent with max settings and 
a CXR consistent with pulmonary edema. A bronch was performed 
which demonstrated moderate amount of clear frothy liquid 
consistent with a pulmonary edema picture. Ultimately she 
required paralysis for better synchrony with the vent. A goals 
of care discussion was held with her family after there was 
minimal  improvement with these interventions. Her family 
decided to make her CMO and she was extubated and died shortly 
there after. 

# Hypotension : On admission was hypotensive and required 
pressors intermittently. Thought to be septic shock from 
pseudomonal pneumonia also though that there may have been a 
component of of heart failure given her RV hypertrophy, TR, and 
elevated PS pressures, suspect euvolemia/positive pressure 
ventilation in the setting of R heart disease. She was treated 
with levophed as needed for pressure support and treated for HAP 
with ceftazadime for a pseudomonas that was cefepime resistant.  


# Pseudomonas PNA, VAP
Sensitive to ceftazidime, initiated on ___, we continued 
ceftazadime for the duration of her stay in the ___. 

# Acute Renal Failure
Cr 0.8 upon presentation to ___, rising steadily to 3.11 
upon transfer. Felt to be ATN secondary to septic shock and 
contrast nephropathy. Renal US w/out hydronephrosis. Proteinuria 
and hematuria noted on admission UA, suggestive of possible 
glomerular pathology.  Initiated on ___. 

# A-fib with RVR   
CHADS-VASC 6. On apixaban at home, held due to acute Hgb drop 
which has subsequently been stable. HRs <110 off diltiazem gtt. 
Restarted heparin gtt for AC after GI EGD showed no acute bleed 
and only residual gastritis. 

# Pulmonary Hypertension
Unlikely to be from severe COPD given imaging, but may be from 
heart failure, A fib, OHS (proposed), c/f sleep apnea. 

# HFpEF
Most recent TTE ___ IMPRESSION: Hyperdynamic left ventricular 
systolic function. Right ventricular hypertrophy. At least 
moderate tricuspid regurgitation. Moderate pulmonary 
hypertension. Small midcavitary gradient (peak 11mmHg). 

# Hyponatremia
Stable at 126-128. Likely related to CHF, renal failure.

# Protein-calorie Malnutrition
Albumin 2.0 and pre-albumin 16.6 on presentation.

 

=================  

CHRONIC ISSUES  

=================  

#Gastritis
#GI Bleed: continued PPI s/p EGD which demonstrated gastritis 
# Anemia, normocytic:
Admission Hgb at BIDP 10.1, subsequently dropping to 7.9 on 
___. No obvious s/sx of bleeding. Anticoagulation held due to 
worsening renal function. Hgb since stable in 
# DM: ISS q6h while on tube feeds
# Hypothyroidism: Continued home levothyroxine

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Aspirin 325 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Calcium Carbonate 600 mg PO DAILY 
5. Cetirizine 10 mg PO DAILY 
6. Diltiazem Extended-Release 180 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. Ferrous Sulfate 325 mg PO BID 
9. Fluticasone Propionate 110mcg 1 PUFF IH BID 
10. leflunomide 20 mg oral DAILY 
11. Levothyroxine Sodium 100 mcg PO DAILY 
12. melatonin 3 mg oral QHS 
13. ___ ___ UNIT PO Q6H 
14. Spironolactone 25 mg PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. GuaiFENesin ER 1200 mg PO Q12H 
17. TraZODone 50 mg PO QHS 
18. PredniSONE 20 mg PO DAILY 
19. Levofloxacin 500 mg PO Q24H 

 
Discharge Medications:
None Patient expired on ___ 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
#Hypoxic Respiratory Failure
#Hospital Acquired Pneumonia with MDRO 
#Renal Failure

 
Discharge Condition:
None Patient expired on ___ 
 
Discharge Instructions:
None
 
Followup Instructions:
___